US05610144
The operation is carried out in a fashion similar to that described in Example 9, but starting from 0.55 g of tert-butyl (2RS,5SR)-1-{2-[3-(3-benzyloxycarbonylphenyl)-ureido]acetyl}-5-(2-pyridyl)prolinate in solution in 20 cm3 of methanol and 10 cm3 of 0.1N aqueous potassium hydroxide solution. After treatment, 0.17 g of (2RS,5SR)-3-{3-[2-(2-tert-butoxycarbonyl-5-(2-pyridyl)-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid, melting at 174° C., is obtained.

reactant | tert-butyl (2RS,5SR)-1-{2-[3-(3-benzyloxycarbonylphenyl)-ureido]acetyl}-5-(2-pyridyl)prolinate | 0.55 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=NC=CC=C1)=O | C31H34N4O6
solvent | methanol | 20 cm3 | CO | CH4O
solvent | potassium hydroxide | 0.1N, 10 cm3 | [OH-].[K+]
product | (2RS,5SR)-3-{3-[2-(2-tert-butoxycarbonyl-5-(2-pyridyl)-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid | 0.17 g | C(C)(C)(C)OC(=O)C1N(C(CC1)C1=NC=CC=C1)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C24H28N4O6
